US05359098
6-[6-(4-(4-Chlorophenyl)piperazinyl)hexoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by the method of Example 3 from 6-hydroxyflavone, 1-bromo-6-chlorohexane, and 4-(4-chlorophenyl)piperazine: mp 227°-229° C.

reactant | 6-hydroxyflavone | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | 4-(4-chlorophenyl)piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
product | 6-[6-(4-(4-Chlorophenyl)piperazinyl)hexoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride | Cl.ClC1=CC=C(C=C1)N1CCN(CC1)CCCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C1 | InChI=1S/C31H33ClN2O3.ClH/c32-25-10-12-26(13-11-25)34-19-17-33(18-20-34)16-6-1-2-7-21-36-27-14-15-30-28(22-27)29(35)23-31(37-30)24-8-4-3-5-9-24;/h3-5,8-15,22-23H,1-2,6-7,16-21H2;1H
